US07479496B2
Part F: Preparation of [(1R,2S)-2-formyl-2-(3-oxo-propyl)-cyclohexyl]-carbamic acid benzyl ester
A solution of dimethyl sulfoxide (1.6 g, 19 mmol) in dichloromethane (50 mL) was cooled to −78° C. and treated dropwise with oxalyl chloride (1.42 g, 11.2 mmol). After the addition was complete, the solution was stirred for 30 minutes and was then treated dropwise with a solution of [(1R,2S)-2-hydroxymethyl-2-(3-hydroxypropyl)-cyclohexyl]-carbamic acid benzyl ester (0.65 g, 1.9 mmol) in dichloromethane (10 mL). After the addition was complete, the solution was stirred for 40 minutes and then treated with triethylamine (1.8 g, 18 mmol). The mixture was stirred for 30 minutes before removing the cooling bath and stirring at room temperature for 1 hour. The mixture was quenched with saturated aqueous sodium bicarbonate (100 mL) and the organic phase was separated and washed successively with water and saturated aqueous sodium chloride, and then dried over sodium sulfate. The solvent was removed under vacuum to give an oil (0.6 g). 1H NMR (300 MHz, CDCl3) δ9.74 (bs, 1H), 9.43 (bs, 1H), 7.39-7.27 (m, 5H), 5.06 (m, 2H), 4.91 (bd, J=9 Hz, 1H), 4.14 (bm, 1H), 2.60-1.30 (m, 12H). Mass spec (ES+) m/z 318.2 (M+H+, 100%).

reactant | dimethyl sulfoxide | 19 mmol, 1.6 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 11.2 mmol, 1.42 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | [(1R,2S)-2-hydroxymethyl-2-(3-hydroxypropyl)-cyclohexyl]-carbamic acid benzyl ester | 1.9 mmol, 0.65 g | C(C1=CC=CC=C1)OC(N[C@H]1[C@](CCCC1)(CCCO)CO)=O | C18H27NO4
reactant | triethylamine | 18 mmol, 1.8 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | [(1R,2S)-2-formyl-2-(3-oxo-propyl)-cyclohexyl]-carbamic acid benzyl ester | 0.6 g | C(C1=CC=CC=C1)OC(N[C@H]1[C@](CCCC1)(CCC=O)C=O)=O | C18H23NO4
